US04997840
A mixture of 2'-chloroacetophenone (309 g), industrial methylated spirit (252 ml), methylamine (33% w/w solution in industrial methylated spirit, 1085 ml) and copper lining powder (2.7 g) was stirred in a sealed pressure vessel for 3 hours at 80° C. The reaction vessel was allowed to cool to 40° and the mixture was washed out of the vessel with industrial methylated spirit (60 ml). The combined reaction mixture and washing were stirred at 50 to 55°, a solution of sodium sulphide trihydrate (6.6 g) in water (45 ml) was added dropwise and the stirring and heating were continued for 15 minutes. The mixture was filtered through diatomaceous earth (sold under the trade name HYFLO SUPERCEL) and the filter bed washed with industrial methylated spirit (300 ml). The combined filtrate and washing were evaporated under reduced pressure to give an oil which was added to hydrochloric acid (5M, 900 ml) and then stirred and heated under reflux for 2 hours. The mixture was cooled to 30°, washed with hexane (2×990 ml) and then adjusted to pH 2 to 3 by addition of aqueous sodium hydroxide (5M, 750 ml) whilst maintaining the temperature at 30 to 35°. The mixture was then extracted with dichloromethane (990 ml) and the extract evaporated under reduced pressure to give the novel compound 2'-(methylamino)acetophenone, m.p. 34°-35°.

reactant | 2'-chloroacetophenone | 309 g | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | methylamine | 1085 ml | CN | CH5N
catalyst | copper | [Cu] | Cu
solvent | hydrochloric acid | 5M, 900 ml | Cl | ClH
product | 2'-(methylamino)acetophenone | CNC1=C(C=CC=C1)C(C)=O | C9H11NO
